Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Clindamycin / Keflex / Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
Chest pain with exercise
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
___ yr old man with HTN and HLD who presents with ___ months of 
R-sided chest, shoulder, and neck pain after eating and physical 
activity.  The patient noted in ___ of last year he would 
experience predominantly R-sided chest pain accompanied by R 
shoulder and, occasionally, R neck pain after physical activity 
and after eating.  This pain is relieved with rest, resolving 
after ___ after cessation of the inciting activity.  He was 
evaluated by his PCP in ___ but due to the atypical 
presentation and his current work up for GERD (diagnosed with a 
hiatal hernia approximately 1 mo ago), further evaluation was 
not pursued until he saw his PCP in ___ approximately one 
week ago.  He does report his GERD-like symptoms are different 
from his R-sided chest pain following exertion.  Since his first 
evaluation in ___, his chest pain episodes have been 
increasing in frequency, although not in severity.  Since his 
symptoms had persisted he was sent for Stress ECHO on ___ 
for evaluation.  During these episodes, he denies any concerning 
symptoms such as SOB, palpitations, dizziness, nausea/vomiting, 
or diaphoresis.  He does endorse DOE after climbing stairs but 
notes no appreciable ___ edema.  Of note, he does report having a 
Stress ECHO last year after an anxiety/panic-like episode during 
which he had a fast heart rate.

On ___, his Stress test showed the following:
 His EKG at baseline was sinus rhythm at 98 beats per minute 
with  
 ___epressions in the inferolateral leads. He assured 
us  
 that these were known abnormalities. He had no chest pain to  
 start the test. During exercise at about 3 minutes of exercise, 
 
 he developed right arm to upper chest discomfort, this 
increased  
 to ___ in severity during exercise. His EKG while generally  
 uninterpretable at baseline had changes of an additional 2 mm 
of  
 flat to downsloping ST depressions in the inferolateral leads 
and  
 additional 1-2 mm of elevation in AVR. He completed 7 minutes 
of  
 the protocol. He stopped secondary to overall leg fatigue. His  

 echocardiographic images showed normal functional pre and  
 post-exercise.  
 After the test, he continued to have these persistent ST  
 depressions and his jaw and shoulder pain while lessened had 
not  
 disappeared. He received two nitroglycerin sublingually and at  

 25 minutes post-exercise, he had ___ discomfort in his jaw and 
 
 his EKG was almost back to baseline.  In this setting, his 
Troponin was <0.01

Given these results and his history of present illness, he was 
referred to ___ for immediate cardiac catheterization. 
 
Past Medical History:
 1. CARDIAC RISK FACTORS: +hypertension, HLD  
 2. CARDIAC HISTORY:  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY:  
 - four teeth removed in ___, replaced with implants
 - Polymyalgia Rheumatica
 - Hiatal hernia
 - sleep apnea
 - bilateral hearing loss ___ presbycusis
 - pre-glaucoma
 - Low testosterone  
 - BPH  
 - Recent Decompression at the L3, L4 and L5 level and L4-L5 
instrumented fusion here at ___ in ___  
 - septoplasty for deviated septum
 - L submandibular gland excision
 - internal fixation of L elbow, after fracture
 
 
Social History:
___
Family History:
 Father with angina, although no MIs per patient.  Paternal 
uncles with heart disease.  Mother with colon cancer.  Brother 
and sister healthy.  No other cardiac hx or hx of spontaneous 
death.  
 
Physical Exam:
Physical Exam at Admission:
===========================
VS: T=97.9  BP=116-135/60s  ___  RR=16  O2 sat=98RA
8Hr I/Os:  240/325
24hrs I/Os:  120/258
Telemetry:  no events
Admission weight: not recorded  
GENERAL: Pt in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 8 cm.  L neck scar appreciated. 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

Physical Exam at Discharge:
===========================
GENERAL: Pt in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 8 cm.  L neck scar appreciated. 
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominal bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
Admission labs, imaging, and micro data:
========================================

___ 07:20PM BLOOD WBC-9.8 RBC-4.27* Hgb-12.9* Hct-38.7* 
MCV-91 MCH-30.2 MCHC-33.3 RDW-13.5 RDWSD-44.2 Plt ___
___ 07:20PM BLOOD ___
___ 07:20PM BLOOD Plt ___
___ 07:20PM BLOOD Glucose-121* UreaN-11 Creat-0.9 Na-138 
K-3.5 Cl-104 HCO3-24 AnGap-14
___ 07:20PM BLOOD ALT-41* AST-28 CK(CPK)-226 AlkPhos-60 
Amylase-75 TotBili-0.3
___ 07:20PM BLOOD %HbA1c-5.7 eAG-117
___ 07:20PM BLOOD Albumin-3.8

Cardiac Cath ___:
LAD: The proximal-mid LAD was heavily calcified. There was a 25% 
ostial stenosis. The proximal-mid LAD had a tubular 40% stenosis 
before S1 and D1. There was an eccentric 75% stenosis after D1 
and  
 S1, before D2. There was a bifurcation lesion in the mid LAD 
involving the origin of the large D2 to 40% with a 60% stenosis 
in the LAD immediately after D2. The mid LAD after D2 may have 
been  
 intramyocardial. Flow in the LAD was TIMI 2.  
 Ramus intermedius: There was a modest caliber ramus intermedius 
of modest length with mild ostial plaquing.  
 LCX: The proximal CX had focal heavy calcification and a 
retroflexed origin. The curved proximal CX had an 80% stenosis 
after a small OM1 (with the lesion extending into the proximal 
OM1). There was  
 TIMI 1 delayed flow into the distal OM2 with a larger lower 
pole and a smaller upper pole with a proximal 50% bifurcation 
lesion.  
 RCA: The RCA had was very angulated proximally with mild 
diffuse plaquing throughout (especially to 30% proximal-mid 
vessel and distally before the RPDA in another angulated 
segment). The RPDA was  
 tortuous. RPL1 was small with moderate diffuse disease 
throughout. RPL2 was short. The distal AV groove RCA extended 
well up the LV and supplied an atrial branch (? SA nodal 
branch). 
___ 05:10AM BLOOD cTropnT-0.02*  after cath

Discharge labs, imaging, and micro data:
========================================

___ 04:55AM BLOOD WBC-9.2 RBC-4.71 Hgb-14.2 Hct-43.6 MCV-93 
MCH-30.1 MCHC-32.6 RDW-13.2 RDWSD-45.1 Plt ___
___ 04:55AM BLOOD Plt ___
___ 04:55AM BLOOD ___ PTT-29.6 ___
___ 04:55AM BLOOD Glucose-91 UreaN-11 Creat-0.9 Na-138 
K-4.2 Cl-101 HCO3-26 AnGap-15
___ 05:10AM BLOOD ALT-52* AST-38 LD(LDH)-207 AlkPhos-62 
TotBili-0.5
___ 04:55AM BLOOD Calcium-9.5 Phos-4.0 Mg-2.1

 
Brief Hospital Course:
Mr. ___ is a ___ male with history of HTN and HLD 
who presents with ___ of exercise-induced R-sided chest pain 
with ST changes on stress ECHO (EF of 60%) and now confirmed 3VD 
by cardiac cath who was admitted for Cardiac surgery evaluation.
  
 # Stable Angina/Coronary Artery Disease  
 The patient presented with stable angina (no angina symptoms at 
rest).  He underwent Stress ECHO at an outside clinic which 
showed ST elevations during the study, and the patient reported 
angina symptoms.  He was then transferred to ___ for cardiac 
catheterization which showed 3 vessel disease, best treated by 
cardiac surgery.  The cardiac surgery team evaluated the patient 
obtained relevant preoperative labs and studies (CXR, UA/UCx, 
MRSA swab).  The patient was also started on Atorvastatin 80mg 
Daily and Metoprolol 25mg daily.  The patient was initially 
placed on a heparin drip, however, given the patient's 
presentation is most consistent with stable angina, this was 
stopped shortly after its initiation.  The patient remained 
symptom-free throughout his admission.  He was discharged with 
plans to arrange for elective CABG with Cardiac surgery.
 
 # Polymyalgia Rheumatica:  The patient's usual symptoms 
(joint/muscle aches) appeared stable.  He was continued on his 
daily prednisone.    

 # HTN:  The patient was given his home dose of Losartan 
(100mg).  He remained normotensive throughout his admission.

#BPH:  The patient was given his daily tamsulosin.  
 

#Transitional Issues:

=================

*The patient was started on Metoprolol Succinate 25mg daily.

*The patient was started on Atorvastatin 80mg daily.

*The patient will need to continue taking his 81mg ASA and 
Losartan 100mg daily.

*The Cardiac Surgery clinic will call the patient on ___ to set 
up a follow up appointment with Dr. ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 3 mg PO QPM 
2. Tamsulosin 0.4 mg PO EVERY OTHER DAY 
3. testosterone propionate 50 mg transdermal DAILY 
4. Losartan Potassium 100 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. PredniSONE 3 mg PO QPM 
4. Tamsulosin 0.4 mg PO EVERY OTHER DAY 
5. Vitamin D 1000 UNIT PO DAILY 
6. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Daily Disp #*60 
Tablet Refills:*0
7. Famotidine 20 mg PO Q12H 
RX *famotidine 20 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0
8. testosterone propionate 50 mg transdermal DAILY 
9. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis
Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. 

You underwent cardiac catheterization on ___ which revealed 
coronary artery disease. You did not have any stents placed 
because it was thought your disease would be best treated with 
surgery. You were seen by our cardiac surgery team in 
preparation for coronary heart surgery.

It is very important to take all of your heart healthy 
medications. 

You are now on aspirin. You need to take aspirin everyday. Do 
not stop taking aspirin unless you are told by your 
cardiologist. You also need to continue taking Atorvastatin, 
Losartan, and Metoprolol.

We wish you all the best, 

Your ___ Cardiology team
  
 
Followup Instructions:
___